US04291185
In a manner similar to that described in Example 4, 100 ml (73.4 g) of Reformate Gasoline, a hydrocarbon mixture rich in aromatics, was combined with 10 ml (6.2 g) of propylene and 4 g of powdered ZSM-12 catalyst in the autoclave. Samples were withdrawn and analyzed at various time periods. Results are summarized in Table V. A rapid reaction occurred which preferentially removed benzene by alkylation to produce isopropylbenzene. An additional 10 ml (6.1 g) of propylene was added between Runs 3 and 4, resulting in further reductions in benzene concentration. Primary reaction products were isopropylbenzene and isopropyltoluene. Over 70% of the benzene was removed by the second treatment. The propylene fed was consumed to produce liquid alkylation product with relatively high octane value.

reactant | propylene | 10 ml, 6.2 g | C=CC | C3H6
reactant | benzene | C1=CC=CC=C1 | C6H6
product | isopropylbenzene | C(C)(C)C1=CC=CC=C1 | C9H12
